US08034812B2
Production of 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)-N-phenylbenzamide
In the same manner as in Example 278 and using 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)benzoic acid (250 mg, 0.71 mmol), aniline (184 mg, 2.0 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (380 mg, 1.0 mmol), N,N-diisopropylethylamine (270 mg, 2.0 mmol) and N,N-dimethylformamide (7 mL) as starting materials, the title compound (280 mg, 93%) was obtained as a white solid.

reactant | 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)benzoic acid | 0.71 mmol, 250 mg | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)SC2=C(C(=O)O)C=CC=C2)C1 | C17H14N4O3S
reactant | aniline | 2.0 mmol, 184 mg | NC1=CC=CC=C1 | C6H7N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.0 mmol, 380 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 2.0 mmol, 270 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)-N-phenylbenzamide | 280 mg, 93% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)SC2=C(C(=O)NC3=CC=CC=C3)C=CC=C2)C1 | C23H19N5O2S
